US07598412B2
N-[1-(3,4-Dimethoxy-phenyl)-cyclopentylmethyl]-3-phenyl-propionamide
3-Phenyl-propionic acid (30.0 mg, 0.200 mmol) and C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine (47.1 g, 0.200 mmol) were dissolved in acetonitrile (1 mL) containing triethylamine (83.6 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (76.0 mg, 0.200 mmol) was added and the solution was allowed to stir for 16 hours. The mixture was then purified by reverse phase preparative liquid chromatography to yield the pure product (19.0 mg, 0.0517 mmol, 25.8%) ESI-MS m/z calc. 367.2, found 367.5 (M+1)+. Retention time of 3.05 minutes.

reactant | 3-Phenyl-propionic acid | 0.200 mmol, 30.0 mg | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | C-[1-(3,4-Dimethoxy-phenyl)-cyclopentyl]-methylamine | 0.200 mmol, 47.1 g | COC=1C=C(C=CC1OC)C1(CCCC1)CN | C14H21NO2
reactant | triethylamine | 0.600 mmol, 83.6 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.200 mmol, 76.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-[1-(3,4-Dimethoxy-phenyl)-cyclopentylmethyl]-3-phenyl-propionamide | 0.0517 mmol, 19.0 mg, 25.8% | COC=1C=C(C=CC1OC)C1(CCCC1)CNC(CCC1=CC=CC=C1)=O | C23H29NO3
